US03989685
To a solution of 2,2,2-trichloroethyl 3β-chloro-3α-methyl-7β-phenoxyacetamidocepham-4α-carboxylate (2.29 g) in benzene (130 ml) is added pyridine (10 ml) and the mixture is cooled at -60°C in the presence of phosphorous pentachloride (1.51 g) for 2 hours. The reaction mixture is evaporated in vacuo to remove benzene, methanol (250 ml) is added thereto, and the solution kept at room temperature overnight. The solution is concentrated to give a residue which is dissolved in 50% aqueous tetrahydrofuran (50 ml), and the tetrahydrofuran is evaporated after 15 minutes. The residual solution is neutralized with 1N sodium hydroxide, and evaporated to give 2,2,2-trichloroethyl 7β-amino-3β-chloro-3α-methylcepham-4α-carboxylate (1.53 g).

reactant | 2,2,2-trichloroethyl 3β-chloro-3α-methyl-7β-phenoxyacetamidocepham-4α-carboxylate | 2.29 g | Cl[C@@]1(CS[C@H]2N([C@H]1C(=O)OCC(Cl)(Cl)Cl)C([C@H]2NC(COC2=CC=CC=C2)=O)=O)C | C18H18Cl4N2O5S
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorous pentachloride | 1.51 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 130 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,2,2-trichloroethyl 7β-amino-3β-chloro-3α-methylcepham-4α-carboxylate | 1.53 g | N[C@H]1[C@@H]2N([C@H]([C@](CS2)(C)Cl)C(=O)OCC(Cl)(Cl)Cl)C1=O | C10H12Cl4N2O3S
